*/home/shruti/Desktop/gvv_ltspice.asc
G1 0 kV0 V0 0 0.001
R1 kV0 0 1
R2 N003 kV0 200
L1 Vf N003 0.01
C1 Vf 0 0.000001
G2 0 N002 N001 Vf 1000
V1 N001 0 dc 1.
R3 N002 0 1
L2 V0 N002 0.000001
R4 V0 0 100
.dc V1 0 10 1
.control
run
wrdata ee18btech11006.dat V(V0)
.endc
.end
